US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carboxy-3-chloronitrobenzene
A solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-chloro-5-methoxycarbonylnitrobenzene (3.4 g) in concentrated hydrochloric acid (30 ml) was stirred at 75° C. for 16 hours. The reaction mixture was concentrated in vacuo. To a solution of the residual colorless solid in a mixture of water (15 ml) and acetone (15 ml) were added sodium hydrogencarbonate (1.6 g) and di-t-butyldicarbonate (2.2 g) in an ice bath. The resulting mixture was stirred at 40° C. for 1 hour. The reaction mixture was extracted with ethyl acetate. The extract was washed with 0.5M hydrochloric acid, water and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo to afford a pale yellow solid. To the solid was added hexane and the mixture was filtered to give the desired compound (2.6 g, yield 79%) as a pale yellow solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-chloro-5-methoxycarbonylnitrobenzene | 3.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C(=O)OC)[N+](=O)[O-])Cl | C18H23ClN2O7
reactant | hexane | CCCCCC | C6H14
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carboxy-3-chloronitrobenzene | 2.6 g, yield 79% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C(=O)O)[N+](=O)[O-])Cl | C17H21ClN2O7
